US04049714
Phosphorus oxychloride (4.6 g., 0.03 mole), 3-(anilinomethyl)-1-methylindole (7.1 g., 0.03 mole), 2-pyrrolidinone (2.55 g., 0.03 mole) and triethylamine (3.04 g., 0.03 mole) in 75 ml. of 1,2-dichloroethane are reacted according to the procedure of Example 35. The reaction mixture is quenched in 100 ml. of 10% sodium hydroxide and ice and the organic layer separated therefrom. The organic layer is extracted first with 100 ml. of 1.5 N hydrochloric acid and then 100 ml. of water. The combined extracts are washed with ether, made basic with sodium hydroxide, extracted with ether and the ethereal extract dried over magnesium sulfate and concentrated under reduced pressure to provide 6.6 g. of a residual oil which on trituration with ether forms a solid. Crystallization from Skellysolve B yields 4.2 g. of 3-[(N-[1-pyrrolin-2-yl]anilino)methyl]-1-methylindole as the free base, m.p. 95°-97° C. A 2.2 g. sample of the free base is taken up in ethanol and acidified with ethanolic hydrogen chloride and the solution concentrated under reduced pressure. The residue thus obtained is refluxed with benzene permitting the benzene solution to slowly distill. On standing, 1.7 g. of analytically pure 3-[(N-[1-pyrrolin-2-yl]anilino)methyl]-1-methylindole hydrochloride, m.p. 150.5°-154.5° C. (dec.) (corr.) is obtained.

reactant | Phosphorus oxychloride | 0.03 mole, 4.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(anilinomethyl)-1-methylindole | 0.03 mole, 7.1 g | N(C1=CC=CC=C1)CC1=CN(C2=CC=CC=C12)C | C16H16N2
reactant | 2-pyrrolidinone | 0.03 mole, 2.55 g | N1C(CCC1)=O | C4H7NO
reactant | triethylamine | 0.03 mole, 3.04 g | C(C)N(CC)CC | C6H15N
reactant | 3-[(N-[1-pyrrolin-2-yl]anilino)methyl]-1-methylindole | N1=C(CCC1)N(C1=CC=CC=C1)CC1=CN(C2=CC=CC=C12)C | C20H21N3
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ether | CCOCC | C4H10O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-[(N-[1-pyrrolin-2-yl]anilino)methyl]-1-methylindole hydrochloride | Cl.N1=C(CCC1)N(C1=CC=CC=C1)CC1=CN(C2=CC=CC=C12)C | InChI=1S/C20H21N3.ClH/c1-22-14-16(18-10-5-6-11-19(18)22)15-23(20-12-7-13-21-20)17-8-3-2-4-9-17;/h2-6,8-11,14H,7,12-13,15H2,1H3;1H
